US04873248
To the solution of 2-cyano-6-methylpyridine (30 g) and methanol (300 ml) was added 28% sodium methoxide solution in methanol (14.7 g). After the solution was left to stand for 3 hours, acetic acid (4.6 g) was added thereto, followed by concentration under reduced pressure. The resultant residue was dissolved in ether (300 ml) and washed with water (100 ml). After the extract was dried over anhydrous magnesium sulfate, it was concentrated under reduced pressure to obtain methyl 6-methyl-2-picoline imidate.

reactant | 2-cyano-6-methylpyridine | 30 g | C(#N)C1=NC(=CC=C1)C | C7H6N2
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | 4.6 g | C(C)(=O)O | C2H4O2
solvent | methanol | 14.7 g | CO | CH4O
solvent | methanol | 300 ml | CO | CH4O
product | methyl 6-methyl-2-picoline imidate | CC1=CC=CC(=N1)C(OC)=N | C8H10N2O
